*                         MICRON HSPICE MODEL
*
* Disclaimer: This software code and all associated documentation, comments
*             or other information (collectively "Software") is provided
*             "AS IS" without warranty of any kind. MICRON TECHNOLOGY, INC.
*             ("MTI") EXPRESSLY DISCLAIMS ALL WARRANTIES EXPRESS OR IMPLIED,
*             INCLUDING BUT NOT LIMITED TO, NONINFRINGEMENT OF THIRD PARTY
*             RIGHTS, AND ANY IMPLIED WARRANTIES OF MERCHANTABILITY OR FITNESS
*             FOR ANY PARTICULAR PURPOSE. MTI DOES NOT WARRANT THAT THE
*             SOFTWARE WILL MEET YOUR REQUIREMENTS, OR THAT THE OPERATION OF
*             THE SOFTWARE WILL BE UNINTERRUPTED OR ERROR-FREE. FURTHERMORE,
*             MTI DOES NOT MAKE ANY REPRESENTATIONS REGARDING THE USE OR THE
*             RESULTS OF THE USE OF THE SOFTWARE IN TERMS OF ITS CORRECTNESS,
*             ACCURACY, RELIABILITY, OR OTHERWISE. THE ENTIRE RISK ARISING OUT
*             OF USE OR PERFORMANCE OF THE SOFTWARE REMAINS WITH YOU. IN NO
*             EVENT SHALL MTI, ITS AFFILIATED COMPANIES OR THEIR SUPPLIERS BE
*             LIABLE FOR ANY DIRECT, INDIRECT, CONSEQUENTIAL, INCIDENTAL, OR
*             SPECIAL DAMAGES (INCLUDING, WITHOUT LIMITATION, DAMAGES FOR LOSS
*             OF PROFITS, BUSINESS INTERRUPTION, OR LOSS OF INFORMATION)
*             ARISING OUT OF YOUR USE OF OR INABILITY TO USE THE SOFTWARE,
*             EVEN IF MTI HAS BEEN ADVISED OF THE POSSIBILITY OF SUCH DAMAGES.
*             Because some jurisdictions prohibit the exclusion or limitation
*             of liability for consequential or incidental damages, the above
*             limitation may not apply to you.
* 
*             Copyright 2015 Micron Technology, Inc. All rights reserved.
*
****************** 1Gx4, 512Megx8, 256Megx16 DDR3 SDRAM **********************
********************** Example HSPICE setup file for DQs *********************
****
****************************************************************
****                ____                                       *
****  IN/CKD/CKDF--|    \                                      *
**** Control bits--|     }------PAD--\/\/\/--@@@@--|--PKG_OUT  *
****        ENOUT--|____/    |        R_pkg  L_pkg |           *
****                         |                    ===C_pkg     *
****                  ___    |                     |           *
****                 /  +|---|                    GND          *
****      RCVR_OUT--{   -|-----VREF                            *
****                 \___|-(ENOUT#)                            *
****************************************************************
****
**** This netlist is for the x4, x8 4Gb DDR3 SDRAM
**** The input signals are IN (input signal) and ENOUT (output enable signal).
**** The input signal must be clocked into the buffer with the CKD/CKDF signal.
**** ODTEN controls the On-Die Termination enable/disable functionality.
**** The I/O data is available on the signal PAD.
**** The output of the input receiver circuit is the node RCVR_OUT.
**** To account for package parasitics correlative impedance values
**** X_pkg_pad has been attached to the PAD node. 
**** The package output is on the signal PKG_OUT.
****
**** NOTE: This spice file is not designed to match datasheet timing numbers.
****       Delay times are smaller than those given in the data sheet
****
**** The .LIB statement selects the following simulation corners:
****   LIB           DATARATE        PROCESS  DIE CAP  VDD/VDDQ  TEMPERATURE
****   ---           --------        -------  -------  --------  -----------
****   TYP_1066      1066 Mbps       Typical  Typical  1.350V    50C
****   SLOW_1066     1066 Mbps       Weak     Maximum  1.283V    110C
****   FAST_1066     1066 Mbps       Strong   Minimum  1.425V    0C
****
****   TYP_1066      1333/1600 Mbps  Typical  Typical  1.350V    50C
****   SLOW_1066     1333/1600 Mbps  Weak     Maximum  1.283V    110C
****   FAST_1066     1333/1600 Mbps  Strong   Minimum  1.425V    0C
****
****   TYP_1066      1866 Mbps       Typical  Typical  1.350V    50C
****   SLOW_1066     1866 Mbps       Weak     Maximum  1.283V    110C
****   FAST_1066     1866 Mbps       Strong   Minimum  1.425V    0C
****
****   TYP_2133      2133 Mbps       Typical  Typical  1.350V    50C
****   SLOW_2133     2133 Mbps       Typical  Maximum  1.283V    110C
****   FAST_2133     2133 Mbps       Strong   Minimum  1.425V    0C
****
****   TYP_1066_IT   1066 Mbps       Typical  Typical  1.350V    50C
****   SLOW_1066_IT  1066 Mbps       Weak     Maximum  1.283V    110C
****   FAST_1066_IT  1066 Mbps       Strong   Minimum  1.425V    -40C
****
****   TYP_1066_IT   1600/1333 Mbps  Typical  Typical  1.350V    50C
****   SLOW_1066_IT  1600/1333 Mbps  Weak     Maximum  1.283V    110C
****   FAST_1066_IT  1600/1333 Mbps  Strong   Minimum  1.425V    -40C
****
****   TYP_1066_IT   1866 Mbps       Typical  Typical  1.350V    50C
****   SLOW_1066_IT  1866 Mbps       Weak     Maximum  1.283V    110C
****   FAST_1066_IT  1866 Mbps       Strong   Minimum  1.425V    -40C
****
****   TYP_2133_IT   2133 Mbps       Typical  Typical  1.350V    50C
****   SLOW_2133_IT  2133 Mbps       Typical  Maximum  1.283V    110C
****   FAST_2133_IT  2133 Mbps       Strong   Minimum  1.425V    -40C
****
**** To run this simulation, the files "v00h_1p35_model.cnr" and "v00h_dqbuff.inc"
**** are required to be in the same directory as this netlist.
****
**** Commercial Temperature settings are: Typical 50C, Slow 110C, Fast 0C
****************************************************************

.OPTIONS POST
.OPTIONS METHOD=GEAR DCON=1 CONVERGE=1 ACCURATE
.OPTIONS SEARCH=' '  $This option must be present for decryption to work
.OPTIONS HIER_SCALE=1

.TRAN 0.005ns '12*per'

.INC "v00h_dqbuff.inc"

.LIB "v00h_1p35_model.cnr" TYP_1066
*.LIB "v00h_1p35_model.cnr" TYP_2133

.TITLE Typical

**** The temperature is for the typical case
.TEMP 50    $Nominal Junction Temp for CT, IT and AT

****************************************************************
**** POWER SUPPLY PARAMETER 
****************************************************************

.PARAM  vccq_typ  = 1.350V
.PARAM  vccq_min  = 1.283V
.PARAM  vccq_max  = 1.425V

.PARAM  vcc_typ   = 1.350V
.PARAM  vcc_min   = 1.283V
.PARAM  vcc_max   = 1.425V

.PARAM  vccr_typ  = 1.000V
.PARAM  vccr_min  = 0.950V
.PARAM  vccr_max  = 1.050V

.PARAM  vss       = 0.000V
.PARAM  gnd       = 0.000V
.PARAM  vssq      = 0.000V

**** Match up typ, min, or max voltages for corner sims
.PARAM  vccq      = vccq_typ
.PARAM  vcc       = vcc_typ
.PARAM  vccr      = vccr_typ
.PARAM  VDDQ       = vcc_typ
.PARAM  VDD        = vcc_typ

****************************************************************
Vvccq   vccq  0  DC = vccq
Vgnd    gnd   0  DC = gnd
Vvcc    vcc   0  DC = vcc
Vvssq   vssq  0  DC = vssq
Vvss    vss   0  DC = vss
Vref    vref  0  DC = 'vccq/2' 
Vvtt    vtt   0  DC = 'vccq/2' 
Vvccr  vccr 0  DC = vccr

****************************************************************
**** ODT SETUP
****************************************************************
**** On-Die Termination is controlled like the Extended Mode Register settings
****   Function     EMR Bit 9   EMR Bit 6   EMR Bit 2
****   Disabled         0           0           0
****   60ohm ODT        0           0           1
****   120ohm ODT       0           1           0
****   40ohm ODT        0           1           1
****   20ohm ODT        1           0           0
****   30ohm ODT        1           0           1
****   reserved         1           1           0
****   reserved         1           1           1
****************************************************************
VODT_EMR9  EMR9 0  DC = vss  $ see table above for settings
VODT_EMR6  EMR6 0  DC = vss  $ 0 = vss, 1 = vcc
VODT_EMR2  EMR2 0  DC = vss

****************************************************************
**** Active high ODT enable
**** Set odten to vcc/vss and set the EMR bits to toggle ODT on/off
Vodt_en    odten   0  DC = vss

****************************************************************
**** DRIVE STRENGTH
****************************************************************
**** Drive Strength is controlled like the Extended Mode Register settings
****   Drive Strength   EMR Bit 5   EMR Bit 1 
****   40 ohm               0           0
****   34 ohm               0           1
****   reserved             1           0
****   reserved             1           1
****************************************************************
Vds_emr5  emr5 0  DC = vss   $ see table above for settings
Vds_emr1  emr1 0  DC = vcc  $ 0 = vss, 1 = vcc

****************************************************************
**** OUTPUT ENABLE SIGNAL  
****************************************************************
**** Active high (vcc) for output, Active low (vss) for input
Ven     enout 0   DC = vcc

****************************************************************
**** INPUT SIGNAL
****************************************************************
**** Input Stimulus Parameters

*.PARAM datarate = 1066.67E6
*.PARAM datarate = 1333.33E6
.PARAM datarate = 1600.00E6
*.PARAM datarate = 1866.67E6
*.PARAM datarate = 2133.33E6
.PARAM pulsewidth = `1/datarate - dataslew`
.PARAM clkpw = `1/datarate - dataclkslew`
.PARAM per = `2*(1/datarate)`
.PARAM clkper = `2*(1/datarate)`
.PARAM delay = 2ns
.PARAM dataslew = 50ps
.PARAM dataclkslew = 50ps
.PARAM delayclk = 'delay-(clkper/4)'

**** Vin toggles the DQ at the datarate specified above
Vin    IN     0  LFSR gnd vccr delay dataslew dataslew datarate 1 [5 2]

****************************************************************
**** The Data Clock times the release of data from IN through the buffer
**** similar to the internal DLL.  The Data Clock should run at the same frequency
**** as the IN signal with a 1/4 clock cycle offset.
****
**** IN/CKD/PAD relationship with ENOUT=vcc (X indicates unknown state)
****          ____                ____      _
**** IN  ____/    \______________/    \____/
****       ____      ____      ____      ____
**** CKD _/    \____/    \____/    \____/
****                 ____                ____
**** PAD XXXXXXX____/    \______________/
****************************************************************
Vdclk   CKD   0  PULSE gnd vccr delayclk dataclkslew dataclkslew clkpw clkper
*Vdclkf  CKDF  0  PULSE vccr gnd delayclk dataclkslew dataclkslew clkpw clkper

****************************************************************
**** TOP CELL:  v00h_dqbuff
****************************************************************
*   RCVR_OUT PAD CKD EMR1 EMR2 EMR5 EMR6 EMR9 ENOUT IN ODTEN VREF gnd vcc vccq vssq
*   RCVR_OUT PAD CKD EMR1 EMR2 EMR5 EMR6 EMR9 ENOUT IN ODTEN VREF VSS VCC VCCQ VSSQ

Xi0 RCVR_OUT PAD CKD EMR1 EMR2 EMR5 EMR6 EMR9 ENOUT IN ODTEN VREF vss vcc vccq vssq vccr v00h_dqbuff s=1e-6

****************************************************************
**** PACKAGE CONNECTION
****************************************************************
**** Refer to the IBIS model for specific package parasitic values.

X_pkg_pad PAD PKG_OUT pkg  r=282.78m l=1.25nH c=0.43pF 

Rtt pkg_out vtt r=25

.SUBCKT pkg pad pkg_out r=0 l=0 c=0
R_pkg pad net1 R='r'
L_pkg net1 pkg_out L='l'
C_pkg pkg_out gnd C='c'
.ENDS pkg

****************************************************************
**** ALTER STATEMENTS
****************************************************************
.ALTER 

.TITLE Weak

.PARAM  vccq        = vccq_min
.PARAM  vcc         = vcc_min
.PARAM  vccr      = vccr_min
.PARAM  VDDQ       = vcc_min
.PARAM  VDD        = vcc_min

.TEMP 110    $Max Junction Temp for CT and IT

.LIB "v00h_1p35_model.cnr" SLOW_1066
*.LIB "v00h_1p35_model.cnr" SLOW_2133

****************************************************************
.ALTER

.TITLE Strong

.PARAM  vccq        = vccq_max
.PARAM  vcc         = vcc_max
.PARAM  vccr      = vccr_max
.PARAM  VDDQ       = vcc_max
.PARAM  VDD        = vcc_max

.TEMP 0      $Min Junction Temp for CT
*.TEMP -40    $Min Junction Temp for IT

.LIB "v00h_1p35_model.cnr" FAST_1066
*.LIB "v00h_1p35_model.cnr" FAST_1066_IT
*.LIB "v00h_1p35_model.cnr" FAST_2133
*.LIB "v00h_1p35_model.cnr" FAST_2133_IT

****************************************************************
.ALTER

.TITLE Write Mode 

.PARAM  vccq        = vccq_typ
.PARAM  vcc         = vcc_typ
.PARAM  vccr      = vccr_typ
.PARAM  VDDQ       = vcc_typ
.PARAM  VDD        = vcc_typ

.TEMP 50     $Nominal Junction Temp for CT and IT

.LIB "v00h_1p35_model.cnr" TYP_1066
*.LIB "v00h_1p35_model.cnr" TYP_2133

Ven       enout   0  DC = gnd
Vpkg_out  pkg_out 0  pulse 0 vccq delay dataslew dataslew pulsewidth per 

****************************************************************
.END
